US07288547B2
324 mg (1.2 mmol) of (R)-2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propan-1-ol is added to a suspension of 330 mg of a mixture that consists of 4-amino-thiophene-2-sulfonyl fluoride and 5-amino-thiophene-2-sulfonyl fluoride (ratio: 3:1) in 5 ml of acetonitrile, 0.5 ml of water and 0.5 ml of a 4 molar solution of hydrochloric acid in 1,4-dioxane. The reaction mixture is stirred under reflux for 26 hours. After cooling, the batch is concentrated by evaporation, and the residue is stirred with ethanol. The precipitate that is formed is suctioned off and stirred with warm water. In turn, the solid is suctioned off and dried. 152 mg (0.37 mmol, 31% of theory) of the product 4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonyl fluoride is obtained.

reactant | (R)-2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propan-1-ol | 1.2 mmol, 324 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](CO)C | C7H9BrClN3O
reactant | 4-amino-thiophene-2-sulfonyl fluoride | NC=1C=C(SC1)S(=O)(=O)F | C4H4FNO2S2
reactant | 5-amino-thiophene-2-sulfonyl fluoride | NC1=CC=C(S1)S(=O)(=O)F | C4H4FNO2S2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 0.5 ml | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-[5-bromo-4-(2-hydroxy-1-methyl-ethylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonyl fluoride | BrC=1C(=NC(=NC1)NC=1C=C(SC1)S(=O)(=O)F)NC(CO)C | C11H12BrFN4O3S2
